US04463173
A solution of 0.18 g. of pivaloyloxymethyl 3-methyl-7-aminoceph-3-em-4-carboxylate (0.18 g.) and 2-fluoroimidazole hydrochloride (0.14 g.) in DMF (1 ml.) and acetonitrile (1 ml.) was heated at 50° for 7 hours. After evaporation the residue was chromatographed on silica gel using CH2Cl2 /MeOH 95:5 v/v as eluant. The oily product was treated with one equivalent of HCl in MeOH. The solution was evaporated and the residue was triturated with ether and filtered to give pivaloyloxymethyl 7-(imidazol-2-yl)amino-3-methylceph-3-em-4-carboxylate hydrochloride having the following n.m.r. in d6DMSO+CD3COOD: 1.2 (s, 9H); 2.1 (s, 3H); 3.6 (m, 2H); 5.25 (d, 1H); 5.7 (d, 1H); 5.85 (m, 2H); 7.05 (s, 2H).

reactant | pivaloyloxymethyl 3-methyl-7-aminoceph-3-em-4-carboxylate | 0.18 g | CC=1CS[C@H]2N(C1C(=O)OCOC(C(C)(C)C)=O)C(C2N)=O | C14H20N2O5S
reactant | 2-fluoroimidazole hydrochloride | 0.14 g | Cl.FC=1NC=CN1
reactant | HCl | one equivalent | Cl | ClH
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | MeOH | CO | CH4O
product | pivaloyloxymethyl 7-(imidazol-2-yl)amino-3-methylceph-3-em-4-carboxylate hydrochloride | Cl.N1C(=NC=C1)NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCOC(C(C)(C)C)=O)C1=O | InChI=1S/C17H22N4O5S.ClH/c1-9-7-27-13-10(20-16-18-5-6-19-16)12(22)21(13)11(9)14(23)25-8-26-15(24)17(2,3)4;/h5-6,10,13H,7-8H2,1-4H3,(H2,18,19,20);1H/t10?,13-;/m1./s1
